US04833146
3-Methyl-7-(2-oxopropyl)-xanthine
166 g (1 mol) of 3-methylxanthine and 110 g (1.3 mol) of sodium bicarbonate are suspended in 500 ml of dimethylformamide, the suspension is heated to 100° C., while stirring, and 111 g (1.2 mol) of chloroacetone are added dropwise over a period of 2 hours. The mixture is then subsequently stirred at 100° C. for two hours and thereafter cooled and the precipitate formed is filtered off with suction and washed five times with 50 ml of dimethylformamide each time. After the product has been taken up in warm 1N sodium hydroxide solution at 60° C., dilute hydrochloric acid is added until the pH reaches 9, the mixture is filtered hot with suction and the residue is washed with water until free from chloride, rinsed with methanol and dried at 80° C. in a drying cabinet.

reactant | 3-methylxanthine | 1 mol, 166 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | sodium bicarbonate | 1.3 mol, 110 g | C([O-])(O)=O.[Na+]
reactant | chloroacetone | 1.2 mol, 111 g | ClCC(C)=O | C3H5ClO
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-7-(2-oxopropyl)-xanthine | CN1C(NC(C=2N(C=NC12)CC(C)=O)=O)=O | C9H10N4O3
